datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[C:5]([C:6](=[C:7]([C:8]([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])[H:19])[H:18])([H:16])[H:17])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([C:4]([H:13])([H:14])[H:15])[C:5]([H:16])([H:17])[C:6]([H:18])=[C:7]([H:19])[C:8]1([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])[H:11],101.964
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8](=[C:9]([C:10]([C:11](=[C:12]([H:19])[H:20])[H:18])([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:16])[H:5].[C:8](=[C:9]([C:10]([C:11](=[C:12]([H:19])[H:20])[H:18])[H:17])[H:15])([H:13])[H:14],13.3888
[C:0](#[C:1][S:2][H:4])[H:3].[C:5]([C:6]([C:7]([H:12])([H:13])[H:14])[C:8]([H:15])([H:16])[H:17])([H:9])([H:10])[H:11]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:6]([C:5]([H:9])([H:10])[H:11])([C:7]([H:12])([H:13])[H:14])[C:8]([H:15])([H:16])[H:17],-30.9616
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6]([C:7](=[C:8]([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]([C:9](=[C:10]([H:24])[H:25])[H:23])[C:8]1([H:21])[H:22])[H:11],45.5638
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3](=[S:4])[H:11])([H:5])([H:6])[H:7].[S:12]=[C:13]([S:14][H:16])[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3](=[S:4])[H:11])[H:15])([H:5])([H:6])[H:7].[S:12]=[C:13][S:14][H:16],77.404
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]1([H:17])([H:18])[C:10]([H:19])([H:20])[C:11]2([H:21])[C:12]([H:22])([H:23])[C:13]([H:24])([H:25])[C:14]([H:26])([H:27])[C:15]2([H:28])[C:16]1([H:29])[H:30]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:21])[H:4].[C:9]1([H:17])([H:18])[C:10]([H:19])([H:20])[C:11]2[C:12]([H:22])([H:23])[C:13]([H:24])([H:25])[C:14]([H:26])([H:27])[C:15]2([H:28])[C:16]1([H:29])[H:30],51.8816
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13]([C:14]([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:9])[C:14]([C:13]([H:21])([H:22])[H:23])([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])[H:8])[H:7])([H:5])[H:6],30.4177
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[O:7][H:8]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][O:7][H:8],-2.966456
[C:0]([C:1]#[N:2])([H:3])([H:4])[H:5].[C:6]([H:7])([H:8])[H:9]>>[C:0]([C:1]#[N:2])([H:4])[H:5].[H:3][C:6]([H:7])([H:8])[H:9],29.288
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5](=[C:6]([C:7]([H:17])([H:18])[H:19])[C:8]#[C:9][H:20])[H:16])([H:14])[H:15])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]1([C:6]([C:7]([H:17])([H:18])[H:19])[C:8]#[C:9][H:20])[H:16])[H:10],52.0071
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[C:22]([C:23]([H:26])([H:27])[H:28])([H:24])[H:25]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:13])[C:22]([C:23]([H:26])([H:27])[H:28])([H:24])[H:25])([H:10])([H:11])[H:12],21.0455
[C:0]([C:1]([C:2](=[O:3])[H:11])([C:4]([C:5]([N:6]([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1](=[C:2]([O:3][H:14])[H:11])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]([N:6]([H:16])[H:17])[H:15])([H:12])[H:13],214.941
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:13])[H:14])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([C:2]([H:10])([H:11])[H:12])([H:9])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[O:5]1.[O:6][H:17],43.932
[O:0][H:1].[O:2][N:3]=[O:4]>>[O:0]([H:1])[O:2][N:3]=[O:4],-0.8368
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])=[C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:37])([H:38])[H:39])[c:28]1[c:29]([H:40])[c:30]([H:41])[c:31]([H:42])[c:32]([H:43])[c:33]1[H:44])([H:34])([H:35])[H:36]>>[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])[C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[C:26]([C:25]([H:34])([H:35])[H:36])([C:27]([H:37])([H:38])[H:39])[c:28]1[c:29]([H:40])[c:30]([H:41])[c:31]([H:42])[c:32]([H:43])[c:33]1[H:44])([H:11])([H:12])[H:13],49.2457
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4][H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4])[H:8])([H:5])([H:6])[H:7].[H:12][C:14]([C:13]([H:16])([H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19],-35.9824
